US06583155B2
1-[1-{3-[4-(3,5-Dichloro-pyridin-4-yloxy)-piperidin-1-yl]-2-hydroxy-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
A solution of 103 mg (0.30 mmol) of 4-(3,5-dichloro-pyridin-4-yloxy)-piperidine-1-carboxylic acid tert-butyl ester in CH2Cl2 (2 mL) was treated with trifluoroacetic acid (0.5 mL) at room temperature overnight. The solvent was then removed and the crude product dissolved in MeOH and stirred over 100 mg of sodium bicarbonate for 1 h. The solid was filtered off and the filtrate concentrated. The crude piperidine was then dissolved in 4 mL EtOH and treated with 100 mg (0.27 mmol) of 1-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone. The solution was heated to 60° C. overnight. The solvent was then removed by rotary evaporation and the crude product was purified by column chromatography (silica, 0-10% MeOH/EtOAc) to afford 90 mg (54%) of a white solid. MS (electrospray): exact mass calculated for C28H30Cl2F3N5O3, 611.17; m/z found, 612.2 [M+H]+. 1H NMR (CDCl3, 400 MHz, a mixture of amide rotamers): 8.44 (s, 2H), 7.77 (d, J=8.41 Hz, 1H), 7.72 and 7.68 (A and B of AB quartet, J=8.41 Hz, 2H), 7.65 (d, J=8.41 Hz, 1H), 4.88 and 4.76 (A and B of AB quartet, J=15.65 Hz, 1H), 4.66 (br s, 1H), 4.55 (br s, 1H), 4.26-4.08 (m, 2H), 4.08-3.98 (m, 2H), 3.91-3.69 (m, 2H), 3.03-2.92 (m, 1.6H), 2.91-2.85 (m, 0.8H), 2.85-2.75 (m, 1.6H), 2.52-2.40 (m, 3H), 2.35-2.24 (br m, 1H), 2.22 (s, 1.5H), 2.17 (s, 1.5H), 2.03-1.90 (m, 4H).

reactant | 4-(3,5-dichloro-pyridin-4-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.30 mmol, 103 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=NC=C1Cl)Cl | C15H20Cl2N2O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 0.27 mmol, 100 mg | O1C(C1)CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)C(F)(F)F | C18H18F3N3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-{3-[4-(3,5-Dichloro-pyridin-4-yloxy)-piperidin-1-yl]-2-hydroxy-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 90 mg, 54% | ClC=1C=NC=C(C1OC1CCN(CC1)CC(CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)C(F)(F)F)O)Cl | C28H30Cl2F3N5O3
